US04016274
Potassium borohydride (3 g.) is added to 4-chloro-N-(7-chloro-1,8-naphthyridin-2-yl)-phthalimide (25.2 g.) in dioxane (500 cc.) and methanol (500 cc.). The mixture is stirred for 4 hours at a temperature of about 20° C and water (500 cc.) is then added. The precipitate is filtered off and washed with water (100 cc.) and then with a mixture (200 cc.) of equal parts of methanol and dioxane. This gives a crude product (20 g.) which is chromatographed on silica (0.05 - 0.2 mm) (6 kg.) as indicated below, the eluate being collected in fractions of 5,000 cc. Elution is carried out first with methylene chloride (10,000 cc.) and then with a mixture of methylene chloride and ethyl acetate (5/5 by volume) (40,000 cc.). This eluate, after concentration, yields (4-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-1-isoindolinone (6 g.) melting at 270° C. Thereafter elution is carried out with the same mixture of methylene chloride and ethyl acetate (10,000 cc.). This eluate, after concentration, gives a mixture (1.6 g.) of the isomers 4-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-1-isoindolinone and 7-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-1-isoindolinone. Finally, elution is carried out again with the same mixture of methylene chloride and ethyl acetate (20,000 cc.). This eluate, after concentration, yields 7-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-1-isoindolinone (3.1 g.) melting at a temperature above 280° C.

reactant | Potassium borohydride | 3 g | [BH4-].[K+]
reactant | 4-chloro-N-(7-chloro-1,8-naphthyridin-2-yl)-phthalimide | 25.2 g | ClC=1C=C2C(C(=O)N(C2=O)C2=NC3=NC(=CC=C3C=C2)Cl)=CC1 | C16H7Cl2N3O2
reactant | water | 500 cc | O | H2O
reactant | dioxane | 500 cc | O1CCOCC1 | C4H8O2
solvent | methanol | 500 cc | CO | CH4O
product | 4-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-1-isoindolinone | 6 g | ClC1=C2C(N(C(C2=CC=C1)=O)C1=NC2=NC(=CC=C2C=C1)Cl)O | C16H9Cl2N3O2
